* Test AC mode support for ERR, ERR1 and ERR2 measures.
*
* See SON Bug 1278 for more details
*****************************************************

* Trivial high-pass filter (V-C-R) circuit
R1 b 0 2
C1 a b 1u
V1 a 0 DC 0V AC 1

.print AC vr(b) vi(b) vm(b) vp(b) vdb(b) im(v1)
.ac dec 5 100Hz 1e6

* ERR and ERR1 measures
.MEASURE AC ERR ERR VM(b) VM(a)
.MEASURE AC ERR1 ERR1 VM(b) VM(a)
.MEASURE AC ERR1MV0.1 ERR1 VM(b) VM(a) MINVAL=0.1
.MEASURE AC ERR1YMIN0.3 ERR1 VM(b) VM(a) YMIN=0.3
.MEASURE AC ERR1IGNOR0.3 ERR1 VM(b) VM(a) IGNOR=0.3
.MEASURE AC ERR1YMAX0.7 ERR1 VM(b) VM(a) YMAX=0.7
.MEASURE AC ERR1EXP ERR1 {VM(b)+1} {VM(a)+1}

* ERR2 measures
.MEASURE AC ERR2 ERR2 VM(b) VM(a)
.MEASURE AC ERR2MV0.1 ERR2 VM(b) VM(a) MINVAL=0.1
.MEASURE AC ERR2YMIN0.3 ERR2 VM(b) VM(a) YMIN=0.3
.MEASURE AC ERR2IGNORE0.3 ERR2 VM(b) VM(a) IGNORE=0.3
.MEASURE AC ERR2YMAX0.7 ERR2 VM(b) VM(a) YMAX=0.7
.MEASURE AC ERR2EXP ERR2 {VM(b)+1} {VM(a)+1}

* Test various voltage ops for ERR1 measure only
.MEASURE AC ERR1VR  ERR1 VR(b) VM(a) YMIN=0.1
.MEASURE AC ERR1VI  ERR1 VI(b) VM(a)
.MEASURE AC ERR1VP  ERR1 VP(b) VM(a)

* Test various VDB for ERR1 and ERR2 measure, since
* VDB(b) has positive and negative values for this netlist.
.MEASURE AC ERR1VDB ERR1 VDB(b) VM(a)
.MEASURE AC ERR2VDB ERR2 VDB(b) VM(a)

* FROM-TO
.MEASURE AC ERR1FT ERR1 VM(b) VM(a) FROM=1e3 TO=1e5

* Branch current Op
.MEASURE AC ERR1IM  ERR1 VM(b) IM(V1)

* Tests should return -1 or -100, since the FROM-T0 window
* has various problems.
.measure ac err1ReturnNegOne err1 v(b) vm(a) FROM=1e7 TO=1e8
.measure ac err2ReturnNeg100 err2 vr(b) vm(a) FROM=1e6 TO=1e2 DEFAULT_VAL=-100

.end
